US05455273
r) trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-ethyl-N-(4-phenyl-3butenoyl)cyclohexylamine
from trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-ethylcyclohexylamine and 4-phenyl-3-butenoylchloride. Colourless oil. Rf value: 0.74 (alumina, petroleum ether/ethyl acetate=2:1, v:v).

reactant | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-ethylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NCC)CNC | C21H34N2O2
reactant | 4-phenyl-3-butenoylchloride | C1(=CC=CC=C1)C=CCC(=O)Cl | C10H9ClO
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-ethyl-N-(4-phenyl-3butenoyl)cyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(C(CC=CC1=CC=CC=C1)=O)CC)CNC | C31H42N2O3
